US04859229
A solution of 2.00 g of 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione in 20 ml of dimethylformamide is added to a suspension of 0.26 g of a 55% sodium hydride dispersion in 20 ml of absolute dimethylformamide and the mixture is stirred at room temperature until the hydrogen evolution has finished. Subsequently, 0.57 g of chlorodimethyl ether is added and the mixture is stirred at room temperature for 2 hours. The reaction mixture is evaporated to dryness under reduced pressure, the residue is taken up in 100 ml of ethyl acetate and the solution is washed twice with water, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using diethyl ether/n-hexane as the eluent. There is obtained 3-(4-chloro-2-fluoro-5 -methoxymethoxy-phenyl)-1-methyl-6-trifluoromethyl -2,4(1H,3H)-pyrimidinedione, 1H-NMR (CDCl3, 400 MHz): 7.31 ppm (d,1H), 7.12 ppm (d,1H), 6.36 ppm (s,1H), 5.22 ppm (d,1H), 5.19 ppm (d,1H), 3.55 ppm (d,3H), 3.51 ppm (s,3H).

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 2.00 g | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | chlorodimethyl ether | 0.57 g | COCCl | C2H5ClO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloro-2-fluoro-5 -methoxymethoxy-phenyl)-1-methyl-6-trifluoromethyl -2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OCOC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C14H11ClF4N2O4
